US08492378B2
ethyl 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionate
To a solution of 5-(2,3-dihydro-1-benzofuran-5-yl)-1H-tetrazole (4.40 g, 23.38 mmol) in pyridine (50 mL) was added ethyl 4-chloro-4-oxobutyrate (4.62 g, 28.06 mmol), and the resulting mixture was stirred at room temperature for 30 min and at 100° C. for 3.5 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water, 1M hydrochloric acid, 1M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=95/5-0/100) and recrystallized from hexane/ethyl acetate to give the title compound (5.27 g, yield 78%) as pale-yellow crystals.

reactant | 5-(2,3-dihydro-1-benzofuran-5-yl)-1H-tetrazole | 23.38 mmol, 4.40 g | O1CCC2=C1C=CC(=C2)C2=NN=NN2 | C9H8N4O
reactant | ethyl 4-chloro-4-oxobutyrate | 28.06 mmol, 4.62 g | ClC(CCC(=O)OCC)=O | C6H9ClO3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionate | 5.27 g, yield 78% | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)CCC(=O)OCC | C15H16N2O4
